US04400520
1.64 g of o-phthalaldehydic acid methyl ester and 1.5 g of p-aminophenylacetic acid were added to 30 ml of methanol to form a mixture which was agitated at room temperature for one hour and incorporated with 0.54 g of potassium boron hydride in several portions. The whole was reacted at room temperature for 15 hours and freed from the solvent by distillation at a reduced pressure to obtain a residue. The thus obtained residue was incorporated with 50 ml of water and then with a small amount of acetic acid to form an acidic solution, after which crystals precipitated from said solution were filtered off, dried and recrystallized from ethanol thereby to obtain 2.4 g of 1-oxo-2-{p-(carboxymethyl)-phenyl}-isoindoline having the following properties:

reactant | p-aminophenylacetic acid | 1.5 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | methanol | 30 ml | CO | CH4O
reactant | potassium boron hydride | 0.54 g | B.[K]
reactant | water | 50 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-oxo-2-{p-(carboxymethyl)-phenyl}-isoindoline | 2.4 g | O=C1N(CC2=CC=CC=C12)C1=CC=C(C=C1)CC(=O)O | C16H13NO3
